US04888332
Preparation of 7-chloro-6-ethoxycarbonyl-s-triazolo [1,5-a]pyrimidine
A suspension of 6-ethoxycarbonyl-7-hydroxy-s-triazolo [1,5-a]pyrimidine (7 g) in phosphorus oxychloride (20 ml) was refluxed for 30 minutes, the resultant orange solution was further refluxed for one hour, and excess phosphorus oxychloride was removed by distillation under reduced pressure. Benzene (50 ml) was added to the residue, and remaining phosphorus oxychloride was completely removed by azeotropic distillation under reduced pressure. Chloroform (80 ml) was added to the residue, the insoluble matters were filtered off, and the solvent was removed in vacuo from the filtrate. Purification of the brown residue by silica gel column chromatography gave 3.9 g of the objective compound as colorless crystals.

reactant | 6-ethoxycarbonyl-7-hydroxy-s-triazolo [1,5-a]pyrimidine | 7 g | C(C)OC(=O)C=1C=NC=2N(C1O)N=CN2 | C8H8N4O3
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-6-ethoxycarbonyl-s-triazolo [1,5-a]pyrimidine | 3.9 g | ClC1=C(C=NC=2N1N=CN2)C(=O)OCC | C8H7ClN4O2
